US08314087B2
2-(2-(2-Chloropyridin-4-yloxy)ethyl)-6-phenylpyridazin-3(2H)-one
To a 15 mL round-bottomed flask was added 2-(2-hydroxyethyl)-6-phenylpyridazin-3(2H)-one (0.20 g, 0.92 mmol) and N,N-dimethylformamide (5 mL). To the mixture at 25° C. was added sodium hydride (0.039 g, 1.0 mmol, 60% dispersion in mineral oil). The solution was stirred for 5 min and then 2-chloro-4-fluoropyridine (0.17 g, 1.3 mmol) was added. After stirring for 2 hours the mixture was poured into aq. NaHCO3 (100 mL) and then extracted with 50% EtOAc/hexane (3×75 mL). The combined extracts were washed with H2O (3×75 mL) and brine (75 mL), dried (Na2SO4), and concentrated onto silica. Purification by silica gel chromatography (40 to 90% EtOAc/hexane) afforded the title compound as a white solid (0.24 g, 78% yield). MS (ESI, pos. ion.) m/z: 328 (MH+). Calc'd exact mass for C17H14ClN3O2: 327. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.53 (t, J=5.0 Hz, 2 H), 4.61 (t, J=5.1 Hz, 2 H), 7.00 (dd, J=5.9, 2.3 Hz, 1 H), 7.08 (d, J=9.8 Hz, 1 H), 7.14 (d, J=2.2 Hz, 1 H), 7.44-7.51 (m, 3 H), 7.85-7.87 (m, 2 H), 8.06 (d, J=9.8 Hz, 1 H), 8.18 (d, J=5.9 Hz, 1 H).

reactant | 2-(2-hydroxyethyl)-6-phenylpyridazin-3(2H)-one | 0.92 mmol, 0.20 g | OCCN1N=C(C=CC1=O)C1=CC=CC=C1 | C12H12N2O2
reactant | sodium hydride | 1.0 mmol, 0.039 g | [H-].[Na+]
reactant | 2-chloro-4-fluoropyridine | 1.3 mmol, 0.17 g | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(2-(2-Chloropyridin-4-yloxy)ethyl)-6-phenylpyridazin-3(2H)-one | 0.24 g, 78% yield | ClC1=NC=CC(=C1)OCCN1N=C(C=CC1=O)C1=CC=CC=C1 | C17H14ClN3O2
